US06730668B2
Preparation of 2-(4-fluorophenyl)-3-(2-phenoxy-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo-[1,2-a]pyrazol-1-one (6):
To a solution of phenol (0.66 g, 7.08 mmol) in THF (5 mL) is added NaH (0.24 g, 5.91 mmol) followed by a solution of the crude 2-(4-fluorophenyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 5, prepared herein above (0.25 g, 0.67 mmol) in THF (2 mL). The reaction mixture is stirred for 1.5 hours at room temperature, diluted with aqueous NaHCO3 and extracted with twice with ethyl acetate. The organic layers are combined, dried over MgSO4, and concentrated in vacuo to afford the crude product which is purified over silica (100% EtOAc, followed by 10% MeOH/EtOAc) to provide 0.35 g (38% yield) of the desired product as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.47 (d, J=5.1 Hz, 1H), 7.49 (dd, J=7.8, 7.8 Hz, 2H), 7.40 (ddd, J=5.4, 5.4 Hz, 2H), 7.35-7.22 (m, 3H), 7.10 (dd, J=8.4, 8.4 Hz, 2H), 6.90 (d, J=6.8 Hz, 1H), 4.05 (t, J=7.2 Hz, 2H), 3.86 (t, J=7.2 Hz, 2H), 2.59 (dt, J=7.2, 7.2 Hz, 2H); HRMS calcd for C22H18FN4O2 (M+H)+ 389.1414; found 389.1407. This compound corresponds to analog 1 from Table I.

reactant | phenol | 7.08 mmol, 0.66 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaH | 5.91 mmol, 0.24 g | [H-].[Na+]
reactant | 2-(4-fluorophenyl)-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | FC1=CC=C(C=C1)C1=C(N2N(CCC2)C1=O)C1=NC(=NC=C1)S(=O)(=O)C | C17H15FN4O3S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-(4-fluorophenyl)-3-(2-phenoxy-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo-[1,2-a]pyrazol-1-one | 0.35 g, 38% yield | FC1=CC=C(C=C1)C1=C(N2N(CCC2)C1=O)C1=NC(=NC=C1)OC1=CC=CC=C1 | C22H17FN4O2
